US08729274B2
Tetrakis(triphenylphosphine)Pd(0) (0.021 mmol, 24.32 mg) was added in one portion to a mixture of cis-2-benzyl-6-bromo-3a-methyl-2,3,3a,4,5,9b-hexahydro-1H-benzo[e]isoindole (0.421 mmol, 150 mg) and (Z)-prop-1-enylboronic acid (0.631 mmol, 54.2 mg) in 2 N aq Na2CO3 (1 ml), DME (1 ml) and EtOH (0.5 ml) The reaction mixture was heated under microwave irradiation at 160° C. for 900 seconds and then the mixture was filtered through celite. The resulting filtrate was diluted with water and extracted with DCM (3×). The combined organic extracts were dried over Na2SO4 and conc in vauco to afford a brown oil that was purified by silica column chromatography (eluting with 10% EtOAc in heptane) to afford cis-2-benzyl-3a-methyl-6-((Z)-prop-1-enyl)-2,3,3a,4,5,9b-hexahydro-1H-benzo[e]isoindole) (127 mg), m/z: 318.3 [M+H]+.

reactant | cis-2-benzyl-6-bromo-3a-methyl-2,3,3a,4,5,9b-hexahydro-1H-benzo[e]isoindole | 0.421 mmol, 150 mg | C(C1=CC=CC=C1)N1C[C@]2(CCC3=C([C@H]2C1)C=CC=C3Br)C | C20H22BrN
reactant | (Z)-prop-1-enylboronic acid | 0.631 mmol, 54.2 mg | C(=C/C)/B(O)O | C3H7BO2
solvent | Na2CO3 | 2 N, 1 ml | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DME | 1 ml | COCCOC | C4H10O2
solvent | EtOH | 0.5 ml | CCO | C2H6O
product | cis-2-benzyl-3a-methyl-6-((Z)-prop-1-enyl)-2,3,3a,4,5,9b-hexahydro-1H-benzo[e]isoindole | C(C1=CC=CC=C1)N1C[C@]2(CCC3=C([C@H]2C1)C=CC=C3\C=C/C)C | C23H27N
